US05032598
A solution of 5.00 g (0.028 mol) of 5-nitrobenzothiophene (Bordwell, J. Am. Chem. Soc., 77, 5939 (1955)) in 175 mL of ethanol was hydrogenated at 50 psi over 0.5 g of 10% Pd/c for 1.5 hours. The catalyst was removed by filtration, and the solvent was removed under reduced pressure. The residue, 4.39 g, was dissolved in a mixture of 8.4 g of pyridine and 50 mL of methylene chloride. The solution, treated with 3.45 g (0.03 mol) of methanesulfonyl chloride, was stirred overnight at room temperature. The solution was washed with water, dried over MgSO4, filtered, and the solvent removed under reduced pressure to give 1.74 g of crystalline 5-methanesulfonamidobenzothiophene.

reactant | 5-nitrobenzothiophene | 0.028 mol, 5.00 g | [N+](=O)([O-])C=1C=CC2=C(C=CS2)C1 | C8H5NO2S
reactant | methanesulfonyl chloride | 0.03 mol, 3.45 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethanol | 175 mL | C(C)O | C2H6O
catalyst | Pd | 0.5 g | [Pd] | Pd
product | 5-methanesulfonamidobenzothiophene | 1.74 g | CS(=O)(=O)NC=1C=CC2=C(C=CS2)C1 | C9H9NO2S2
